US08193236B2
3-(5-Dimethylaminomethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
Dimethylamine (approx. 50% solution in DMF, 0.04 ml, 0.27 mmol, 2.0 equiv) is added at room temperature under an atmosphere of argon to a solution of methanesulfonic acid 2-methyl-3-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-pyrazolo[1,5-a]pyridin-5-ylmethyl ester (80 mg, 0.17 mmol). The reaction mixture is stirred at room temperature for 20 minutes. After dilution with water, the mixture is extracted three times with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (CH2Cl2/MeOH 95:5) affords the title compound (44 mg, 62%). 1H NMR (400 MHz, d6-DMSO): δ=11.77 (s, 1H), 10.93 (s, 1H), 8.48 (d, J=6.9Hz, 1H), 7.94 (d, J=3.0 Hz, 1H), 6.79 (br s, 1H), 6.74 (d=7.1 Hz, 1H), 6.65 (dd, J=7.1/1.7 Hz, 1H), 6.45 (t, J=7.1 Hz, 1H), 6.11 (d, J=8.1 Hz, 1H), 4.10 (q, J=5.4 Hz, 2H), 3.18 (s, 3H), 3.17 (s, 3H), 2.39 (s, 3H), 2.20 (s, 3H). MS (ES+): 414 (M+H)+.

reactant | Dimethylamine | 0.27 mmol, 0.04 ml, 2.0 equiv | CNC | C2H7N
reactant | methanesulfonic acid 2-methyl-3-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-pyrazolo[1,5-a]pyridin-5-ylmethyl ester | 0.17 mmol, 80 mg | CC1=NN2C(C=C(C=C2)COS(=O)(=O)C)=C1C=1C(NC(C1C1=CNC2=C(C=CC=C12)C)=O)=O | C23H20N4O5S
product | 3-(5-Dimethylaminomethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 44 mg, 62% | CN(C)CC1=CC=2N(C=C1)N=C(C2C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O)C | C24H23N5O2
